US07932247B2
1,1-dimethylethyl (2S)-4-({5-[3-(aminomethyl)phenyl]-2-thienyl}methyl)-2-methyl-1-piperazinecarboxylate
To the solution of [3-(aminomethyl)phenyl]boronic acid hydrochloride (325 mg, 1.2 mmol) in dioxane/H2O (10 mL/3.3 mL) was added 1,1-dimethylethyl (2S)-4-[(5-bromo-2-thienyl)methyl]-2-methyl-1-piperazinecarboxylate (450 mg, 1.2 mmol), K2CO3 (828 mg, 6.0 mmol) and Pd(PPh3)4 (70 mg, 0.06 mmol). The resulting solution was irradiated in a microwave reactor at 150° C. for 20 minutes and diluted with EtOAc (5 mL). The organic layer was collected and the aqueous layer was extracted by EtOAc (2×5 mL). The organic layers were combined, dried over Na2SO4, filtered and concentrated. The residue was purified by Gilson HPLC, eluting with acetonitrile/water/0.1% TFA (10/90 to 90/10, v/v, over 12 min), to give the title compound (200 mg, 42%). LC/MS: m/z, 402 (M+H), 1.24 min.

reactant | [3-(aminomethyl)phenyl]boronic acid hydrochloride | 1.2 mmol, 325 mg | Cl.NCC=1C=C(C=CC1)B(O)O
reactant | 1,1-dimethylethyl (2S)-4-[(5-bromo-2-thienyl)methyl]-2-methyl-1-piperazinecarboxylate | 1.2 mmol, 450 mg | BrC1=CC=C(S1)CN1C[C@@H](N(CC1)C(=O)OC(C)(C)C)C | C15H23BrN2O2S
reactant | K2CO3 | 6.0 mmol, 828 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | dioxane H2O | 10 mL | O1CCOCC1.O
solvent | EtOAc | 5 mL | CCOC(=O)C | C4H8O2
catalyst | Pd(PPh3)4 | 0.06 mmol, 70 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 1,1-dimethylethyl (2S)-4-({5-[3-(aminomethyl)phenyl]-2-thienyl}methyl)-2-methyl-1-piperazinecarboxylate | 200 mg, 42% | NCC=1C=C(C=CC1)C1=CC=C(S1)CN1C[C@@H](N(CC1)C(=O)OC(C)(C)C)C | C22H31N3O2S
